US07435823B2
Step (a) Preparation of 4-nitrophenyl 7-(6,7-dimethoxyquinolin-4-yloxy)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxylate
To a solution of 7-(6,7-dimethoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine (400 mg, 1.182 mmol) and p-nitrophenyl chloroformate (262 mg, 1.300 mmol) in THF (6 mL) DIPEA (245 μL, 1.419 mmol) was added drop wise at RT. The solution was stirred for 1 h at RT before the resulting mixture was concentrated in vacuo and the title compound was used in the following reaction without purification. MS (ESI, pos. ion) m/z: 504 (M+1). Mass cal'd for C26H21N3O8: 503.13.

reactant | 7-(6,7-dimethoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.182 mmol, 400 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2)C1 | C19H18N2O4
reactant | p-nitrophenyl chloroformate | 1.300 mmol, 262 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | THF | 1.419 mmol, 6 mL | C1CCOC1 | C4H8O
product | 4-nitrophenyl 7-(6,7-dimethoxyquinolin-4-yloxy)-2,3-dihydrobenzo[b][1,4]oxazine-4-carboxylate | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(OCCN2C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C1 | C26H21N3O8
